US04268514
A mixture of 5-benzyloxy-3-chloroxanthone (8.5 g.), sodium hydride (3 g.), methaol (20 ml.) and dimethylformamide (100 ml.) is stirred at room temperature for 24 hours. The mixture is poured into water and the precipitate is filtered. The residue is recrystallised from isopropanol to give 5-benzyloxy-3-methoxyxanthone, m.p. 158° C.

reactant | 5-benzyloxy-3-chloroxanthone | 8.5 g | C(C1=CC=CC=C1)OC1=C2OC=3C=C(C=CC3C(C2=CC=C1)=O)Cl | C20H13ClO3
reactant | sodium hydride | 3 g | [H-].[Na+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-benzyloxy-3-methoxyxanthone | C(C1=CC=CC=C1)OC1=C2OC=3C=C(C=CC3C(C2=CC=C1)=O)OC | C21H16O4
